US08247415B2
Preparation of [2-oxopyrazin-1(2H)-yl]acetic acid (i-41)
Pyrazin-2(1H)-one (0.333 g, 3.47 mmol) was added 5 N sodium hydroxide solution (2.1 mL) followed by chloroacetic acid (0.524 g, 5.54 mmol). The reaction mixture was heated at 100° C. for 2 h. After cooled down to ambient temperature, 2 N hydrochloric acid (3.5 mL) was added and the reaction mixture was directly purified by reverse phase HPLC (TMC Pro-Pac C18; 0-40% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient). The pure fractions were lyophilized overnight to yield the title compound as a yellow solid. LC/MS 155.2 (M+1).

reactant | Pyrazin-2(1H)-one | 3.47 mmol, 0.333 g | N1C(C=NC=C1)=O | C4H4N2O
reactant | sodium hydroxide | 5 N, 2.1 mL | [OH-].[Na+]
reactant | chloroacetic acid | 5.54 mmol, 0.524 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 2 N, 3.5 mL | Cl | ClH
product | [2-oxopyrazin-1(2H)-yl]acetic acid | O=C1N(C=CN=C1)CC(=O)O | C6H6N2O3
